US07544812B2
2-(4-{3-[1-(4-tert-Butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-propyl-phenoxy)-2-methyl-propionic acid methyl ester
2-(2-Allyl-4-{3-[1-(4-tert-butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid methyl ester (0.060 g, 0.115 mmole) was dissolved in absolute ethanol (10 mL). After purged the solution with N2 for 15 min, 10% Pd/C (0.030 g). The reaction was stirred under a hydrogen balloon at room temperature for 2 hours. The catalyst was removed through filtration, and solvent was removed on rota-vapor to provide a colorless oil (0.053 g, 88%). Mass [EI+] 523 (M+H)+.

reactant | 2-(2-Allyl-4-{3-[1-(4-tert-butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid methyl ester | 0.115 mmole, 0.060 g | COC(C(C)(C)OC1=C(C=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(C)(C)C)=O)C)CC=C)=O | C32H44N2O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(4-{3-[1-(4-tert-Butyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-propyl-phenoxy)-2-methyl-propionic acid methyl ester | 0.053 g, 88% | COC(C(C)(C)OC1=C(C=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(C)(C)C)=O)C)CCC)=O | C32H46N2O4
